US07732456B2
(3) Preparation of 4,5-dibromo-2-{4-[(tetrahydropyranyl)oxy]phenyl}-2H-pyridazin-3-one
A catalytic amount of pyridinium p-toluenesulfonate and 3,4-dihydro-2H-pyrane (0.8 mL, 8.89 mmols) were added to a dichloromethane (30 mL) solution of 4,5-dibromo-2-(4-hydroxyphenyl)-2H-pyridazin-3-one (1.03 g, 2.98 mmols), and stirred at room temperature for 2 hours, washed with saturated aqueous sodium bicarbonate solution and saturated brine, and dried over anhydrous potassium carbonate. Concentrating the solvent under reduced pressure, the resulting residue was crystallized from mixed solvent of ethyl acetate and hexane to provide the title compound (1.1 g, 86%).

reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyrane | 8.89 mmols, 0.8 mL | O1CCCC=C1 | C5H8O
reactant | 4,5-dibromo-2-(4-hydroxyphenyl)-2H-pyridazin-3-one | 2.98 mmols, 1.03 g | BrC=1C(N(N=CC1Br)C1=CC=C(C=C1)O)=O | C10H6Br2N2O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4,5-dibromo-2-{4-[(tetrahydropyranyl)oxy]phenyl}-2H-pyridazin-3-one | 1.1 g, 86% | BrC=1C(N(N=CC1Br)C1=CC=C(C=C1)OC1OCCCC1)=O | C15H14Br2N2O3
